US05304685
125 g (1 mol) of 80% strength aqueous 2,2-dimethyl-3-hydroxypropanal (crude mixture from the synthesis, reduced to a water content of 20% by distillation), 185 g (0.9 mol) of 2,4-di-t-butylphenol, 24 g (0.22 mol) of 40% strength aqueous dimethylamine and 700 g of methanol are reacted in a stirred autoclave under autogenous pressure of 20-30 bar at 160° C. for 20 h and then at 180° C. for 20 h. Workup of the reaction mixture by distillation yields 159 g (61%) of 3-(3,5-di-t-butyl-2-hydroxyphenyl)-2,2-dimethylpropanal (boiling point 115°-116° C.).

reactant | 2,2-dimethyl-3-hydroxypropanal | CC(C=O)(CO)C | C5H10O2
reactant | water | O | H2O
reactant | 2,4-di-t-butylphenol | 0.9 mol, 185 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 700 g | CO | CH4O
product | 3-(3,5-di-t-butyl-2-hydroxyphenyl)-2,2-dimethylpropanal | 159 g, 61% | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)CC(C=O)(C)C)O | C19H30O2
